*****< 同相除去比用テストベンチ >*****
.LIB CMRR

*****< Parameters >*****
.param half='psvoltage/2'
.param valrl=20k
.param valrf=1T
.param valcf=10m

*****< Power_Supply >*****
VDD	vdd gnd	half
VSS	gnd vss	half

******< Input >******
VIN inp gnd dc 0 ac 1

*****< Circuit Topology >*****
X1 inm1 inp oc vdd vss opamp
R11 oc inm1 valrf
C11 inm1 inp valcf
R21 oc gnd valrl

X2 inm2 inp od vdd vss opamp
R12 od inm2 valrf
C12 inm2 gnd  valcf
R22 od gnd  valrl


******< Control >******
.AC DEC 100 0.1 10G
.TEMP 25

******< Measure command >******
* .print Vdb(oc) Vdb(od)
.MEAS AC cmrr MAX par'vdb(od)-vdb(oc)' FROM=0.1 TO=10G

.endl